US07655666B2
2-Nitro-4-vinyl-benzoic acid methyl ester
To a solution of 4-bromo-2-nitro-benzoic acid methyl ester (1 g, 3.85 mmol) in dioxane (5 mL) were added tributylvinyltin (1.7 mL, 5.76 mmol) and Pd(Ph3P)2Cl2 (275.4 mg, 0.385 mmol). The reaction mixture was stirred at 80° C. for 18 h, was cooled to r.t. and was diluted with EtOAc. After removal of the precipitate by filtration, the solution was concentrated in vacuo. The residue was purified by flash chromatography (silica gel, hexanes 1:1 hexanes:EtOAc) to provide the title compound (820 mg, 100%, 97% purity by HPLC) as a yellow oil. ESI-MS: m/z 208.2 [M+H]+, rt 5.14 min.

reactant | 4-bromo-2-nitro-benzoic acid methyl ester | 3.85 mmol, 1 g | COC(C1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C8H6BrNO4
reactant | tributylvinyltin | 5.76 mmol, 1.7 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 0.385 mmol, 275.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Nitro-4-vinyl-benzoic acid methyl ester | 820 mg | COC(C1=C(C=C(C=C1)C=C)[N+](=O)[O-])=O | C10H9NO4
